US06613761B1
A dimethylformamide solution of (3R,5S)-7-chloro-5-(2,3-dimethoxyphenyl)-1-neopentyl-2-oxo-1,2, 3,5-tetrahydro-4,1-benzoxazepine-3-acetic acid (2.0 g), ammonium chloride (1.2 g) and triethylamine (1.0 ml) was cooled in ice bath. To the solution were added diethylcyanophosphonate (0.85 g) and triethylamine (0.5 ml). The mixture was stirred for further 20 minutes, to which was added ice-water, followed by extraction with ethyl acetate. The organic layer was washed with water, which was dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was recrystallized from diethyl ether to give 1.0 g of (3R,5S)-7-chloro-5-(2, 3-dimethoxyphenyl)-1-neopentyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetamide as colorless crystals, m.p. 170-172° C.

reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | (3R,5S)-7-chloro-5-(2,3-dimethoxyphenyl)-1-neopentyl-2-oxo-1,2, 3,5-tetrahydro-4,1-benzoxazepine-3-acetic acid | 2.0 g | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CC(C)(C)C)=O)CC(=O)O)C2=C(C(=CC=C2)OC)OC)C1 | C24H28ClNO6
reactant | ammonium chloride | 1.2 g | [Cl-].[NH4+]
reactant | diethylcyanophosphonate | 0.85 g | C(C)OP(OCC)(=O)C#N | C5H10NO3P
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
product | (3R,5S)-7-chloro-5-(2, 3-dimethoxyphenyl)-1-neopentyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetamide | 1.0 g | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CC(C)(C)C)=O)CC(=O)N)C2=C(C(=CC=C2)OC)OC)C1 | C24H29ClN2O5
